US04596597
5-Ethyl-1H-1,2,3-triazole-4-carboxylic acid
To a mixture of 24 g (104 mmoles) of 1(2 or 3)-benzyl-5-ethyl-1H-1,2,3-triazole-4-carboxylic acid in 250 ml of liquid ammonia at -78° C., 7.2 g (312 mmoles) of sodium pellets were added, in portions, until the solution maintained a dark blue color. The reaction was then quenched with 10 g (128 mmoles) of ammonium carbonate. The resulting yellow mixture was allowed to warm to room temperture and the ammonia evaporated. The solid residue was dissolved in 70 ml of water and extracted with ether. The aqueous phase was then adjusted to pH 1 with 12 molar hydrochloric acid and 14.0 g (95%) of 5-ethyl-1H-1,2,3-triazole-4-carboxylic acid was precipitated as a yellow solid. The stucture was confirmed by n.m.r. and I.R.

reactant | benzyl-5-ethyl-1H-1,2,3-triazole-4-carboxylic acid | C(C1=CC=CC=C1)N1N=NC(=C1CC)C(=O)O | C12H13N3O2
reactant | ammonia | N | H3N
reactant | sodium | 312 mmoles, 7.2 g | [Na] | Na
reactant | ammonium carbonate | 128 mmoles, 10 g | C([O-])([O-])=O.[NH4+].[NH4+]
product | 5-Ethyl-1H-1,2,3-triazole-4-carboxylic acid | C(C)C1=C(N=NN1)C(=O)O | C5H7N3O2
